US06509499B1
A solution of 1.55 ml (10.2 mmol) of p-toluenesulphonyl isocyanate in 15.5 ml of anhydrous methylene chloride is added dropwise to a suspension, maintained under a nitrogen atmosphere, of 2.6 g (10.6 mmol) of 3,5-dimethyl-4-[(nitromethyl)sulphonyl]aniline in 52 ml of anhydrous methylene chloride. The temperature of the reaction medium rises spontaneously by 2° C. Stirring of the solution obtained is continued for 30 minutes at room temperature. The reaction medium is then concentrated to dryness under reduced pressure; the residue is purified by chromatography on a column of silica (eluent: methylene chloride and then a 9/1 methylene chloride/methanol mixture) and crystallization from methylene chloride, to give 2.5 g (57%) of 1-[3,5-dimethyl-4-[(nitromethyl)sulphonyl]phenyl]-3-[(4-methylphenyl)sulphonyl]urea.

reactant | p-toluenesulphonyl isocyanate | 10.2 mmol, 1.55 ml | C1(=CC=C(C=C1)S(=O)(=O)N=C=O)C | C8H7NO3S
reactant | 3,5-dimethyl-4-[(nitromethyl)sulphonyl]aniline | 10.6 mmol, 2.6 g | CC=1C=C(N)C=C(C1S(=O)(=O)C[N+](=O)[O-])C | C9H12N2O4S
solvent | methylene chloride | 15.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 52 ml | C(Cl)Cl | CH2Cl2
product | 1-[3,5-dimethyl-4-[(nitromethyl)sulphonyl]phenyl]-3-[(4-methylphenyl)sulphonyl]urea | 2.5 g, 57% | CC=1C=C(C=C(C1S(=O)(=O)C[N+](=O)[O-])C)NC(=O)NS(=O)(=O)C1=CC=C(C=C1)C | C17H19N3O7S2
